* Deterministic RC low-pass smoke case for the CPU benchmark harness.
Vinput in 0 PULSE(0 1 0 100p 100p 20n 40n)
Rseries in out 1k
Cload out 0 1p

.options klu
.tran 0.1n 10n
.measure tran vout_final FIND v(out) AT=10n
.measure tran vout_peak MAX v(out) FROM=0n TO=10n
.end

